US05834108
A hundred parts of lanthanum oxide having an average particle diameter of 1 μm, 125 parts of chromium oxide having an average diameter of 1 μm, and 100 parts of ion-exchanged water were put into a polyethylene pot together with zirconia balls, subjected to pulverization and mixing for 20 hours, and then dehydrated by filter pressing. A resultant cake was dried in a drying chamber at 120° C. for 24 hours. The dried cake was ground coarsely, and placed in an aluminacrucible, and heated in air at 1,200° C. for 2 hours to form lanthanum chromite. A hundred parts of the lanthanum chromite powder thus obtained and 100 parts of ion-exchanged water were put into a polyethylene pot together with 200 parts of zirconia balls, and pulverized for 48 hours to provide an average particle diameter of 0.5 μm.

reactant | lanthanum oxide | [O-2].[La+3].[O-2].[O-2].[La+3]
reactant | chromium oxide | [O-2].[Cr+3].[O-2].[O-2].[Cr+3]
reactant | polyethylene | C(C[*:2])[*:1]
solvent | water | O | H2O
product | lanthanum chromite | [Cr](=O)([O-])[O-].[La+3].[Cr](=O)([O-])[O-].[Cr](=O)([O-])[O-].[La+3] | InChI=1S/3Cr.2La.9O/q;;;2*+3;;;;6*-1
